US06921753B2
(2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-(6-chloro-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate
Copper (I) cyanide was added to a solution of (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-(2,6-dichloro-9H-purin-9-yl)tetrahydro-3-furanyl acetate (J. Med. Chem., 248, 35, 1992) (22 g, 40 mmol) in N′N′-dimethylformamide (150 ml). The suspension was heated to 100° C. for 2 hours and was then allowed to cool to room temperature. The reaction mixture was poured into water (700 ml) with stirring. The solid was filtered off and stirred in dichloromethane (700 ml) for 30 minutes. The solid was filtered off again and then stirred in dichloromethane (700 ml) for another 30 minutes. The dichloromethane portions were combined and evaporated under reduced pressure to a volume of 500 ml. The dichloromethane was then dried over anhydrous sodium sulphate. The solvent was removed under reduced presure. The residue was redissolved in dichloromethane (300 ml). The solvent was removed under reduced pressure. The residue was then stirred in diethylether (300 ml) for 20 minutes. The solid was filtered off and dried to give the title compound (14.8 g).

reactant | Copper (I) cyanide | [Cu]C#N
reactant | (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-(2,6-dichloro-9H-purin-9-yl)tetrahydro-3-furanyl acetate | 40 mmol, 22 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)Cl)Cl)COC(C)=O | C16H16Cl2N4O7
solvent | water | 700 ml | O | H2O
product | (2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-(6-chloro-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate | 14.8 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)Cl)C#N)COC(C)=O | C17H16ClN5O7
